US04992433
To a stirred and cooled (ice bath) solution of 7.1 parts of thionyl chloride in 65 parts of dichloromethane was added dropwise a solution of 6.6 parts of 1-(6-methyl-3-pyridazinyl)-4-piperidineethanol in 195 parts of dichloromethane. Upon complete addition, stirring was continued overnight at room temperature. The reaction mixture was washed with alkaline water. The separated organic layer was dried, filtered and evaporated, yielding 7.2 parts (100%) of 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methylpyridazine as a residue (int. 84).

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(6-methyl-3-pyridazinyl)-4-piperidineethanol | CC1=CC=C(N=N1)N1CCC(CC1)CCO | C12H19N3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-(2-chloroethyl)-1-piperidinyl]-6-methylpyridazine | 100% | ClCCC1CCN(CC1)C=1N=NC(=CC1)C | C12H18ClN3
